US07208495B2
5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol
Sodium borohydride (300 mg, 7.93 mmol) was added to a solution of 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine (740 mg, 1.88 mmol) obtained in Reference Example 13 in THF (7 ml) and methanol (7 ml) at room temperature and stirred for 2 hours. The resulting mixture was concentrated under reduced pressure, and the residue was diluted 1 N potassium carbonate and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residual crystals were washed with hexane to obtain 670 mg (yield 90%) of the title compound. mp. 159–161° C.

reactant | Sodium borohydride | 7.93 mmol, 300 mg | [BH4-].[Na+]
reactant | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-on-5-yl)piperazine | 1.88 mmol, 740 mg | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C24H30N2O3
reactant | methanol | 7 ml | CO | CH4O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | 670 mg, yield 90% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
